US03933823
b. 5-Acetyl-4-hydroxy-3-methylisoxazolo[5,4-b]pyridine
23.8 g. of (3-methyl-5-isoxazolyl)aminomethyleneacetoacetic acid ethyl ester (0.1 mol.) are quickly added to 100 ml. of vigorously refluxing diphenyl ether. After 5 minutes, the reaction mixture is cooled, as rapidly as possible. After addition of 100 ml. diethyl ether, 5-acetyl-4-hydroxy-3-methylisoxazolo[5,4-b]pyridine crystallizes and is filtered off. Recrystallization from methanol yields 9.5 g. (49.5%) of pure product, m.p. 162°.

reactant | (3-methyl-5-isoxazolyl)aminomethyleneacetoacetic acid ethyl ester | 0.1 mol | C(C)OC(CC(=O)C=CNC1=CC(=NO1)C)=O | C11H14N2O4
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-Acetyl-4-hydroxy-3-methylisoxazolo[5,4-b]pyridine | C(C)(=O)C=1C(=C2C(=NC1)ON=C2C)O | C9H8N2O3
